US07807672B2
Preparation of 4-(4′-Fluoro-biphenyl-4-yl)-piperazine-1-carboxylic acid tert-butyl ester
4-(4-Bromo-phenyl)-piperazine-1-carboxylic acid tert-butyl ester (0.171 g, 0.5 mmol), Na2CO3 (0.16 g, 1.5 mmol), 4-fluoro phenyl boronic acid (0.21 g, 1.5 mmol) and (PPh3)2PdCl2 (0.035 g, 0.05 mmol) were mixed in a mixture of THF/H2O (4:1, 7.5 mL) and heated at 70° C. overnight. After cooling to rt, the reaction mixture was partitioned between 50 mL ethyl acetate and 25 mL sat. NaCl solution. The separated organic layer washed with brine (10 mL), dried (MgSO4) and concentrated. The crude was purified with prep TLC (15% ethyl acetate in hexanes) to give a solid (0.071 g). M+H 356.

reactant | 4-(4-Bromo-phenyl)-piperazine-1-carboxylic acid tert-butyl ester | 0.5 mmol, 0.171 g | C(C)(C)(C)OC(=O)N1CCN(CC1)C1=CC=C(C=C1)Br | C15H21BrN2O2
reactant | Na2CO3 | 1.5 mmol, 0.16 g | C(=O)([O-])[O-].[Na+].[Na+]
reactant | 4-fluoro phenyl boronic acid | 1.5 mmol, 0.21 g | FC1=CC=C(C=C1)B(O)O | C6H6BFO2
solvent | THF H2O | 7.5 mL | C1CCOC1.O
catalyst | (PPh3)2PdCl2 | 0.05 mmol, 0.035 g | Cl[Pd]([P](C1=CC=CC=C1)(C2=CC=CC=C2)C3=CC=CC=C3)([P](C4=CC=CC=C4)(C5=CC=CC=C5)C6=CC=CC=C6)Cl
product | 4-(4′-Fluoro-biphenyl-4-yl)-piperazine-1-carboxylic acid tert-butyl ester | 0.071 g | C(C)(C)(C)OC(=O)N1CCN(CC1)C1=CC=C(C=C1)C1=CC=C(C=C1)F | C21H25FN2O2
